US07432270B2
1,1,1-Trifluoromethanesulfonic acid 6-methyl-2-methylsulfanyl-pyrimidin-4-yl ester
To a solution of 6-methyl-2-methylsulfanyl-pyrimidin-4-ol (1 g) in dichloromethane (40 ml) containing triethylamine (1.35 ml) at 0° C. under argon was added trifluoromethanesulphonic anhydride (1.46 ml) dropwise. The resulting solution was allowed to reach ambient temperature and stirred for 16 h. before being partitioned between dichloromethane and saturated aqueous sodium hydrogen carbonate solution. The organic phase was washed with brine, dried and evaporated and the residue chromatographed on silica gel, eluting with ethyl acetate-pentane mixtures, to afford the title compound (0.8 g). 1H NMR δ: 2.53 (3H, s), 2.55 (3H, s), 6.63 (1H, s).

reactant | 6-methyl-2-methylsulfanyl-pyrimidin-4-ol | 1 g | CC1=CC(=NC(=N1)SC)O | C6H8N2OS
reactant | triethylamine | 1.35 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulphonic anhydride | 1.46 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 1,1,1-Trifluoromethanesulfonic acid 6-methyl-2-methylsulfanyl-pyrimidin-4-yl ester | 0.8 g | CC1=CC(=NC(=N1)SC)OS(=O)(=O)C(F)(F)F | C7H7F3N2O3S2
